US04745115
This material was prepared in a similar manner to that described in Acta Chimica Academie Scientarum Hungaricae, Tomus 108(3), 255, (1981). Thus a mixture of 1-chloro-2-naphthylacetonitrile (25 g) and polyphosphoric acid (100 g) was heated and stirred at 80° for 30 min. 2-Chlorobenzaldehyde (8.7 g) was added with stirring over 30 min. The mixture was heated at 130° C. for 3 hours, cooled and poured into water. 0.88 Ammonium hydroxide was added and the mixture left overnight. The precipitate was filtered off and refluxed in 5% sodium hydroxide. The mixture was filtered hot after 2 hours and the product chromatographed (silica gel, chloroform as eluant) to give 5-chloro-1-(2'-chlorophenyl)-1,4-dihydrobenzo[g]isoquinol-3-one (5.3 g) m.p. 252°-254° C.

reactant | 1-chloro-2-naphthylacetonitrile | 25 g | ClC1=C(C=CC2=CC=CC=C12)CC#N | C12H8ClN
reactant | 2-Chlorobenzaldehyde | 8.7 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | Ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 5-chloro-1-(2'-chlorophenyl)-1,4-dihydrobenzo[g]isoquinol-3-one | 5.3 g | ClC1=C2CC(NC(C2=CC2=C1C=CC=C2)C2=C(C=CC=C2)Cl)=O | C19H13Cl2NO
